US07932271B2
N-[5-Chloro-4-[(4-chlorophenylsulfinyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanesulfonamide
To a methylene chloride (10 ml) solution of N-[5-chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanesulfonamide (331 mg, 0.696 mmol) was added 3-chloroperbenzoic acid (120 mg, 0.696 mmol) at 0° C. The resulting mixture was stirred at 0° C. for 50 minutes. At the same temperature, 3-chloroperbenzoic acid (60 mg, 0.348 mmol) was added to the reaction mixture. After stirring at 0° C. for 10 minutes, a saturated aqueous solution of sodium thiosulfate was added to the reaction mixture. The resulting mixture was extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate (=2:1) eluate was concentrated under reduced pressure. To the residue thus obtained was added ether and the solid thus precipitated was collected by filtration to give the title compound (281 mg, 0.572 mmol, 82%) as a white powder.

reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | N-[5-chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanesulfonamide | 0.696 mmol, 331 mg | ClC=1C(=CC(=NC1)NS(=O)(=O)C)C(C1=C(C=CC(=C1)F)F)SC1=CC=C(C=C1)Cl | C19H14Cl2F2N2O2S2
reactant | 3-chloroperbenzoic acid | 0.696 mmol, 120 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-chloroperbenzoic acid | 0.348 mmol, 60 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | N-[5-Chloro-4-[(4-chlorophenylsulfinyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanesulfonamide | 0.572 mmol, 281 mg, 82% | ClC=1C(=CC(=NC1)NS(=O)(=O)C)C(C1=C(C=CC(=C1)F)F)S(=O)C1=CC=C(C=C1)Cl | C19H14Cl2F2N2O3S2
